US04091005
When the reaction was completed, spent MAPP gas was removed from the product mixture in flash chamber 14. Gases were vented overhead and a liquid seal (not shown) was maintained at the bottom drain 15 to prevent leakage of spent gases into the atmosphere. A sight glass was provided in the barricade to permit remote manual control of the liquid level in chamber 14. Liquid exiting from the flash chamber was at a temperature of about 280° F and contained no apparent dissolved gas. Since isopropenyl stearate reacts slowly with stearic acid to form stearic anhydride the reaction was quenched by rapidly solidifying the product on double drum flaker 16. Drum clearance was 0.044 inches and the drums were cooled by circulating water at a temperature of about 50° F at a rate of about 2.9 gallons per minute. The product, an amorphous solid, was scraped from the drums with doctor blades.

reactant | MAPP | CC#C.C=C=C | 2C3H4
reactant | isopropenyl stearate | C(CCCCCCCCCCCCCCCCC)(=O)OC(=C)C | C21H40O2
reactant | stearic acid | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
product | stearic anhydride | C(CCCCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCCCC)=O | C36H70O3
